US08404681B2
1-Hydroxy-3-morpholin-4-yl-6-(pyridin-3-ylmethoxy)-xanthen-9-one
6-Fluoro-1-hydroxy-3-morpholin-4-yl-xanthen-9-one (16 mg. 0.05 mmol) and 3-pyridylmethanol (8 mg, 0.07 mmol) were dissolved in DMSO (0.25 mL), and KHMDS (0.5 M in toluene, 0.24 mL) was added. The reaction mixture was heated to 80° C. for 16 hours, then stirred at room temperature for 60 hours. The reaction was quenched with sat. NH4Cl/water (1:1, 2 mL) and the solids were filtered. The crude solid was purified via flash chromatography eluting with CH2Cl2/MeOH (98:2) to yield 6.8 mg (34%) of product. 1H NMR (CDCl3, 400 MHz) δ: 12.80 (s, 1H), 8.73 (s, 1H), 8.64 (d, 1H), 8.15 (d, 1H), 7.80 (d, 1H), 7.36 (dd, 1H), 6.97 (dd, 1H) 6.85 (s, 1H), 6.27 (s, 1H), 6.24 (s, 1H), 5.19 (s, 2H), 3.86-3.83 (m, 4H), 3.37-3.35 (m, 4H). LRMS (APCI, positive): Da/e 405.1 (m+1).

reactant | 6-Fluoro-1-hydroxy-3-morpholin-4-yl-xanthen-9-one | 0.05 mmol, 16 mg | FC=1C=C2OC=3C=C(C=C(C3C(C2=CC1)=O)O)N1CCOCC1 | C17H14FNO4
reactant | 3-pyridylmethanol | 0.07 mmol, 8 mg | N1=CC(=CC=C1)CO | C6H7NO
reactant | KHMDS | 0.5 M, 0.24 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | DMSO | 0.25 mL | CS(=O)C | C2H6OS
product | 1-Hydroxy-3-morpholin-4-yl-6-(pyridin-3-ylmethoxy)-xanthen-9-one | 6.8 mg, 34% | OC1=CC(=CC=2OC3=CC(=CC=C3C(C12)=O)OCC=1C=NC=CC1)N1CCOCC1 | C23H20N2O5
